US07220862B2
(±)-3-(4-Benzyloxy-2-oxo-2H-pyridin-1-yl)-2-(di-tert-butoxycarbonylamino)-propionic acid methyl ester
To a solution of 2-(di-tert-butoxycarbonylamino)-acrylic acid methyl ester (900 mg, 3.0 mmol), and 4-benzyloxy-1H-pyridin-2-one (630 mg, 1.03 equiv) in acetonitrile (2.5 mL) was added cesium carbonate (100 mg, 0.10 equiv). The resulting suspension was heated to 80° C. via microwave for 2 h. The reaction was concentrated, dissolved in water, and extracted with methylene chloride (3×). The combined organic phases were washed with brine, dried over magnesium sulfate, and concentrated to give 1.47 g (97%) which was used without purification. Mass spec.: 503.56 (MH)+.

reactant | 2-(di-tert-butoxycarbonylamino)-acrylic acid methyl ester | 3.0 mmol, 900 mg | COC(C(=C)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C14H23NO6
reactant | 4-benzyloxy-1H-pyridin-2-one | 630 mg, 1.03 equiv | C(C1=CC=CC=C1)OC1=CC(NC=C1)=O | C12H11NO2
reactant | cesium carbonate | 100 mg, 0.10 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 2.5 mL | C(C)#N | C2H3N
product | (±)-3-(4-Benzyloxy-2-oxo-2H-pyridin-1-yl)-2-(di-tert-butoxycarbonylamino)-propionic acid methyl ester | COC(C(CN1C(C=C(C=C1)OCC1=CC=CC=C1)=O)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C26H34N2O8
